US06608197B2
Step 1A 3-Allyl-6-methyluracil
To allylurea (25 g, 0.25 mol) in ethanol (10 mL) was added ethyl acetoacetate (31.86 mL, 0.25 mol) and 10 drops conc. HCl. After 12 days at room temperature, concentration gave an oil which was dissolved in MeOH. KOH (22.5 g, 0.34 mol) was added and the solution refluxed for 1 hour. After neutralization, the resulting solid 1 was collected. Yield 2.7 g (7%). NMR (CDCl3) δ: 2.16 (3H, s), 4.52 (2H, d), 5.18 (1H, d), 5.23 (1H, d), 5.60 (1H, s), 5.82-5.93 (1H, m), 10.3 (1H, s).

reactant | allylurea | 0.25 mol, 25 g | C(C=C)NC(=O)N | C4H8N2O
reactant | ethyl acetoacetate | 0.25 mol, 31.86 mL | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | KOH | 0.34 mol, 22.5 g | [OH-].[K+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | HCl | 10 drops | Cl | ClH
solvent | MeOH | CO | CH4O
product | 3-Allyl-6-methyluracil | C(C=C)N1C(NC(=CC1=O)C)=O | C8H10N2O2
